US04904672
Step C: Preparation of Methyl 3-(4-methoxyphenyl)methylthiopyridine-4-carboxylate
A solution of 4.9 g (17.8 mmol) of 3-(4-methoxyphenyl)methylthiopyridine-4-carboxylic acid and 4.9 g (30 mmol) of carbonyldiimidazole in 50 mL of dry N,N-dimethylformamide was stirred at 0° C. for 10 minutes and then allowed to warm to room temperature. After 2 hours the solution was cooled to 10° C. and quenched with 20 mL of methanol. The mixture was stirred for 2 hours and then the solvent was concentrated. The residue was partitioned between ether and water and the aqueous layer was extracted with three portions of ether. The ether extracts were dried (MgSO4) and concentrated to afford 5.1 g (93%) of a crystalline solid, m.p. 99°-100° C.

reactant | 3-(4-methoxyphenyl)methylthiopyridine-4-carboxylic acid | 17.8 mmol, 4.9 g | COC1=CC=C(C=C1)CC=1C=NC=CC1C(=S)O | C14H13NO2S
reactant | carbonyldiimidazole | 30 mmol, 4.9 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | Methyl 3-(4-methoxyphenyl)methylthiopyridine-4-carboxylate | 5.1 g, 93% | COC1=CC=C(C=C1)CC=1C=NC=CC1C(=S)OC | C15H15NO2S
